US09212187B2
Synthesis of 5-(3-chloropropyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one
Methane sulfonyl chloride(0.24 ml) was added to a dichloromethane solution(10 ml) of 5-(3-hydroxypropyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one (0.28 g) and triethylamine(0.45 ml). The mixture was stirred at room temperature for two days. The reaction liquid was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: hexane=1:4→1:1). The purified product was condensed to dryness under reduced pressure to give the title compound(0.16 g) as a white amorphous solid.

reactant | Methane sulfonyl chloride | 0.24 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 5-(3-hydroxypropyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 0.28 g | OCCCN1C(C2=C(C=C1)OC(=C2)C)=O | C11H13NO3
solvent | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
product | 5-(3-chloropropyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one | 0.16 g | ClCCCN1C(C2=C(C=C1)OC(=C2)C)=O | C11H12ClNO2
